US07858640B2
[8-chloro-3-(4-methanesulfonylbenzyl)-2,4-dimethylquinolin-5-yl]acetic Acid
A solution of [8-chloro-3-(4-methanesulfonylbenzyl)-2,4-dimethylquinolin-5-yl]acetic acid methyl ester (0.050 g), methanol (3.0 mL) and 1.0 M aqueous sodium hydroxide solution (0.63 mL) was stirred at room temperature for 18 hours. The pH of the solution was adjusted to 5 by the addition of formic acid and the solvent removed under reduced pressure. Purification of the residue by preparative reverse-phase HPLC using a gradient over 30 minutes of acetonitrile in water (30% to 70% of organic modifier) gave title compound as a white solid, 0.0060 g.

reactant | [8-chloro-3-(4-methanesulfonylbenzyl)-2,4-dimethylquinolin-5-yl]acetic acid methyl ester | 0.050 g | COC(CC1=C2C(=C(C(=NC2=C(C=C1)Cl)C)CC1=CC=C(C=C1)S(=O)(=O)C)C)=O | C22H22ClNO4S
reactant | methanol | 3.0 mL | CO | CH4O
reactant | sodium hydroxide | 1.0 M, 0.63 mL | [OH-].[Na+]
solvent | formic acid | C(=O)O | CH2O2
product | [8-chloro-3-(4-methanesulfonylbenzyl)-2,4-dimethylquinolin-5-yl]acetic Acid | ClC=1C=CC(=C2C(=C(C(=NC12)C)CC1=CC=C(C=C1)S(=O)(=O)C)C)CC(=O)O | C21H20ClNO4S
